US05498786
Using the procedure outlined in Example 33, (R)-2-bromodecanoic acid (0.374 g, 1.49 mmol) was treated with potassium tert-butoxide (0.480 g, 4.28 mmol) in THF (9 mL) at 0° C. Hexanethiol (0.30 mL, 2.02 mmol) was added dropwise and the reaction was stirred for 18 hours. The reaction was poured into 1N HCl (25 mL) and extracted with hexane (2×25 mL). The combined organic layers were washed with NaHCO3 solution (25 mL, 0.5M), followed by HCl (1N, 25 mL) and dried (MgSO4). Following solvent removal, (S)-hexylthiodecanoic acid (0.34 g, 1.18 mmol, 80%) was obtained. This material was judged to be 95% ee.

reactant | (R)-2-bromodecanoic acid | 1.49 mmol, 0.374 g | Br[C@@H](C(=O)O)CCCCCCCC | C10H19BrO2
reactant | potassium tert-butoxide | 4.28 mmol, 0.480 g | CC(C)([O-])C.[K+]
reactant | Hexanethiol | 2.02 mmol, 0.30 mL | C(CCCCC)S | C6H14S
reactant | HCl | 1N, 25 mL | Cl | ClH
reactant | THF | 9 mL | C1CCOC1 | C4H8O
product | (S)-hexylthiodecanoic acid | 1.18 mmol, 0.34 g, 80% | C(CCCCC)[C@H](C(=S)O)CCCCCCCC | C16H32OS
